US09029411B2
To a solution of methyl 3-amino-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate (3.4 g, 12.6 mmol) in ACN (110 mL) was added diiodomethane (10.5 mL, 130.2 mmol) and amyl nitrite (1.1 mL, 77.7 mmol). The reaction mixture was allowed to stir at 80° C. for 4 days and was concentrated. The residue was purified by column chromatography to give methyl 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylate (2.2 g, 46%). LCMS: (FA) ES+ 379.0. 1H NMR (400 MHz, d6-DMSO) δ: 3.76 (s, 3H), 3.72-3.75 (m, 4H) and 3.56-3.61 (m, 4H).

reactant | methyl 3-amino-4-cyano-5-morpholin-4-ylthiophene-2-carboxylate | 12.6 mmol, 3.4 g | NC1=C(SC(=C1C#N)N1CCOCC1)C(=O)OC | C11H13N3O3S
reactant | diiodomethane | 130.2 mmol, 10.5 mL | ICI | CH2I2
reactant | amyl nitrite | 77.7 mmol, 1.1 mL | N(=O)OCCCCC | C5H11NO2
solvent | ACN | 110 mL | C(C)#N | C2H3N
product | methyl 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylate | 2.2 g, 46% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)OC)I | C11H11IN2O3S
